datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([C:17]([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])([H:9])[C:17]([C:16]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27],31.5474
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6][H:7]>>[C:0]([H:2])([H:3])[H:4].[S:1]([H:5])[S:6][H:7],54.7686
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24],7.5312
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]1=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1([H:19])[H:20])[H:15]>>[C:0]1([H:10])([H:19])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]1=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1[H:20])[H:15],105.8552
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([C:26]([c:27]1[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]([H:40])[c:32]1[H:41])[H:36])([H:33])([H:34])[H:35]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])[C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:26]([C:25]([H:33])([H:34])[H:35])([c:27]1[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]([H:40])[c:32]1[H:41])[H:36])([H:11])([H:12])[H:13],51.505
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([C:11]([S:12][H:18])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:16])[H:5].[C:10]([C:11]([S:12][H:18])[H:17])([H:13])([H:14])[H:15],49.7896
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:2]([S:3][C:8]([H:9])([H:10])[H:11])[H:7])[H:6])([H:4])[H:5],20.2924
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:20])[H:21])[H:19])=[C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([C:6](=[C:7]([H:20])[H:21])[H:19])[C:8]1([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:13])([H:11])[H:12],87.3619
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23]>>[C:0]([C:1]1=[C:2]([H:10])[C:3]([H:11])[C:4]([H:12])([C:15]([c:16]2[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]2[H:28])([H:22])[H:23])[C:5]([H:13])=[C:6]1[H:14])([H:7])([H:8])[H:9],51.957
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]#[C:9][H:18])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7]([C:8]#[C:9][H:18])[H:17])[H:16])[H:10],101.462
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[O:8][H:9]>>[C:0]([C:1](=[N:2])[H:6])([H:3])([H:4])[H:5].[H:7][O:8][H:9],-0.372376
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[S:6]([c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18])[H:13]>>[C:0](=[C:1]([S:2][H:5])[H:13])([H:3])[H:4].[S:6][c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18],-15.8992
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:18])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[H:19])[H:17])([H:15])[H:16],43.0952
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[O:4][C:5](=[O:6])[H:16])([H:7])([H:8])[H:9]>>[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([H:13])([H:14])[H:15])([H:8])[H:9].[O:4]=[C:5]([O:6][H:7])[H:16],164.4312
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][H:14]>>[C:0]([C:1]([C:2]([C:3]([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:13][H:14],-3.9467672
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[O:5][O:6][H:17])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:7])[H:8].[O:5][O:6][H:17],64.852
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([C:6]([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])([H:14])[H:15])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[C:6]1([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])[H:9],137.737
